US06392090B1
In a 200 ml four-necked flask were placed 29.79 g (0.240 mol) of 4-methoxyphenol, 2.05 g (0.018 mol) of DMi and 40 g of xylene, and the solution was heated 4 until reflux began. Afterward, azeotropic dehydration was carried out, while 4.41 g (0.054 mol) of a 49 wt % aqueous NaOH solution was added dropwise over 5 hours. Next, 20 g of xylene was added dropwise, and the solution was allowed to mature under the reflux for 2 hours. It was confirmed that a stoichiometric amount of water was distilled. The reaction solution was put in a 300 ml autoclave, heated up to 160° C., and then allowed to absorb a carbon dioxide gas at 6 kg/cm2G, followed by maturation at the same temperature for 7 hours. In this case, a conversion was 74.9%/NaOH. The reaction solution was slowly cooled to 70° C., and then crystallized at 70° C. for 2 hours. The reaction solution was filtered at the same temperature, and then washed three times with 20 g of xylene to obtain wet sodium 5-methoxysalicylate. According to analysis, the recovery yield of sodium 5-methoxysalicylate was 72.8%/NaOH, and any DMi was not detected. It was confirmed that DMi was completely recovered in a filtrate and a wash liquid in the steps of the heating, the filtration and the washing. The wet product was dissolved in 54 g of water at 60° C., and an extraction operation was carried out twice with 18 g of xylene to obtain an aqueous layer. Xylene dissolved in this aqueous layer was distilled off under reduced pressure, and the aqueous layer was added dropwise to 49 g of a 6% sulfuric acid solution over 2 hours to crystallize. The resulting precipitate was filtered, and then washed three times with 12 g of water. Next, wet 5-methoxysalicylic acid was taken out, and then dried to obtain 6.60 g of 5-methoxysalicylic acid. In this case, a purity was 99.9% or more and a total recovery yield in terms of pure product from the raw material was 72.7%/NaOH.

reactant | sodium 5-methoxysalicylate | COC1=CC=C(C(C(=O)[O-])=C1)O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | Xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5-methoxysalicylic acid | 6.60 g | COC1=CC=C(C(C(=O)O)=C1)O | C8H8O4
